US05925635
A mixture of N-(3-cyanophenyl)-N'-(1-(t-butoxycarbonyl)-piperidin-4-yl)urea (0.50 g, 1.45 mmol) and sodium hydride (0.20 g of a 60% suspension in mineral oil, 8.3 mmol) in dimethylformamide was stirred at ambient temperature for 30 min. then cis-1,4-dichloro-2-butene (0.18 g, 1.44 mmol) was added. This mixture was heated at 70° C. for 4 h, after which an addition 0.2 g of 60% sodium hydride and 0.04 g of cis-1,4-dichloro-2-butene was added. The mixture was heated at 70° C. for an addition 2 h during which the remaining starting material was consumed. The reaction was diluted with brine (50 ml) and extracted with ethyl acetate (3×). The ethyl acetate extracts were washed with brine, then dried (Na2SO4) and evaporated. The residue was purified by flash chromatography on silica gel, eluting with 2:1 hexane:ethyl acetate to give 0.20 g of 1-(1-t-butoxycarbonylpiperidin-4-yl)-3-(3-amidinophenyl)-5-ethenyl-2-imidazolidinone; LRMS (M+H)+ m/z 397.

reactant | N-(3-cyanophenyl)-N'-(1-(t-butoxycarbonyl)-piperidin-4-yl)urea | 1.45 mmol, 0.50 g | C(#N)C=1C=C(C=CC1)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O3
reactant | sodium hydride | [H-].[Na+]
reactant | cis-1,4-dichloro-2-butene | 1.44 mmol, 0.18 g | ClC\C=C/CCl | C4H6Cl2
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | cis-1,4-dichloro-2-butene | 0.04 g | ClC\C=C/CCl | C4H6Cl2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(1-t-butoxycarbonylpiperidin-4-yl)-3-(3-amidinophenyl)-5-ethenyl-2-imidazolidinone | 0.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(CC1C=C)C1=CC(=CC=C1)C(N)=N)=O | C22H31N5O3
